US04798893
B. 1-[5-Hydroxy-2-(phenylethynyl)phenyl]-2-propanone (Formula (I): R1, R2, R3 =H, Ar1 =phenyl)
1-[5-Acetoxy-2-(phenylethynyl)phenyl]-2-propanone (3.3 g, 11 mmole) was dissolved in MeOH (15 mL) and treated with 50% sodium hydroxide solution (1.8 g, 22 mmole) under argon. The reaction was stirred for 1 hr then poured into dilute hydrochloric acid and extracted with diethyl ether. The combined organic extracts were washed with water and brine, dried over anhydrous sodium sulfate, filtered and concentrated. The product was dried under vacuum to yield 2.78 g (98%) of the title compound.

reactant | 1-[5-Acetoxy-2-(phenylethynyl)phenyl]-2-propanone | 11 mmole, 3.3 g | C(C)(=O)OC=1C=CC(=C(C1)CC(C)=O)C#CC1=CC=CC=C1 | C19H16O3
reactant | sodium hydroxide | 22 mmole, 1.8 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | MeOH | 15 mL | CO | CH4O
product | 1-[5-Hydroxy-2-(phenylethynyl)phenyl]-2-propanone | 2.78 g, 98% | OC=1C=CC(=C(C1)CC(C)=O)C#CC1=CC=CC=C1 | C17H14O2
